US04362882
25.3 gm (1.1 mol) of sodium were dissolved in 500 ml of ethanol under dry nitrogen. 116 gm (1 mol) of 1,2-cyclohexane-diol were added to the solution at room temperature. Then, the ethanol was completely removed under vacuum. 163 gm (1.2 mol) of the ethyl ester of 2-chloropropionic acid were added to the mono-sodium salt of 1,2-cyclohexane-diol so obtained, at 50° C., and the mixture was allowed to stand for 5 hours at 80° C. to react further. Then, the reaction mixture was decomposed with water and acidified with sulfuric acid. The organic phase was separated and the aqueous phase was extracted twice with ether. After combining the organic phases, these were washed neutral with water and sodium bicarbonate solution, dried over sodium sulfate and reduced under vacuum. The crude product obtained was distilled under high vacuum. 76 gm of 4-methyl-2,5-dioxabicyclo-[4,4,0]-decan-3-one were obtained with the following analytical data:

reactant | sodium | 1.1 mol, 25.3 gm | [Na] | Na
reactant | 1,2-cyclohexane-diol | 1 mol, 116 gm | C1(C(CCCC1)O)O | C6H12O2
reactant | 2-chloropropionic acid | ClC(C(=O)O)C | C3H5ClO2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | ethanol | 500 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 4-methyl-2,5-dioxabicyclo-[4,4,0]-decan-3-one | 76 gm | CC1C(OC2CCCCC2O1)=O | C9H14O3
